US04728670
A suspension of 4-biphenyl acetic acid (8.48 g, 40 mmole) in dry benzene was cooled and stirred in an ice bath and oxalyl chloride (5.0 ml, 57.5 mmole) was added, followed dropwise by a solution of dry dimethylformamide (0.5 ml) in dry benzene. After the vigorous gas evolution subsided, the resulting solution was stirred at room temperature for 30 minutes. It was then evaporated and dried in vacuo (oil pump ~30) to afford 4-biphenylacetyl chloride as a solid (9.3 g, ~100%). This was used for reaction without further characterization. The above acid chloride was dissolved in CH2C12 (400 ml), stirred in an ice bath and a solution of sodium azide (3.9 g, 60 mmole) and (n-Bu)4N+H-SO4 (1.0 g) in water (120 ml) was added. (Ref. J. R. Pfister and W. E. Wyman, Synthesis, 38 (1983). The mixture was then stirred vigorously in the ice bath. After 45 minutes, the CH2Cl2 layer was separated, washed with water and brine, dried (MgSO4 anhydrous) and evaporated in vacuo (at ~25° ; CAUTION: DO NOT HEAT) to afford the title compound as a solid (8.5 g, 90.4%). The IR spectrum (Nujol) showed a weak peak at 2273 cm-1 (N=C=O) and a very strong peak at 2140 cm-1 (N3). It showed only one spot on tlc (silica gel, EtOAc-hexane, 1:1) and was used in the next step without further characterization.

reactant | 4-biphenyl acetic acid | 40 mmole, 8.48 g | C1(=CC=C(C=C1)CC(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | oxalyl chloride | 57.5 mmole, 5.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 4-biphenylacetyl chloride | 9.3 g, ~100% | C1(=CC=C(C=C1)CC(=O)Cl)C1=CC=CC=C1 | C14H11ClO
